US04336054
2-Difluoromethyl-2,5-diaminopentanoic acid
Under nitrogen a solution (500 ml) of 2 M butyllithium in hexane is added to a stirred solution of 143.1 ml of diisopropylamine in 1.5 liters of tetrahydrofuran at -78° C. after which 261 g (0.81 mole) of ornithine dibenzaldimine methyl ester in 1.5 liters of tetrahydrofuran is added. Upon completion of the addition the reaction temperature is raised to 40° C. and maintained between 40° and 50° C. for 3 hours during which time chlorodifluoromethane gas is bubbled through the mixture with stirring. The reaction mixture is then treated with a saturated solution of sodium chloride. The organic material is extracted with ether, and the ether extract washed several times with sodium chloride solution, dried over magnesium sulfate and evaporated to give a viscous oil. The oil is stirred with 1 N HCl (1.5 l) for 3 hours, the mixture extracted several times with chloroform and the aqueous solution evaporated to dryness. The oily residue is refluxed with 12 N hydrochloric acid (1.5 l) for 16 hours, the cooled solution clarified by chloroform extraction before concentration, decolorization (charcoal), and further concentration to about 750 ml. The pH of the solution is adjusted to 3.5 by the addition of triethylamine, the solution treated again with charcoal before concentration to about 500 ml and dilution with 7-8 liters of acetone. The precipitated product is filtered off and washed with ethanol. The crude product is recrystallized by dissolving in about 150 ml hot water and treatment of the solution with hot ethanol (450 ml). On cooling crystals of 2-difluoromethyl-2,5-diaminopentanoic acid hydrochloride monohydrate separate 71 g (37%), m.p. 183° C.

reactant | butyllithium | 2 M, 500 ml | C(CCC)[Li]
reactant | diisopropylamine | 143.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | ornithine | 0.81 mole, 261 g | N[C@@H](CCCN)C(=O)O | C5H12N2O2
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | HCl | 1 N, 1.5 l | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1.5 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 liters | O1CCCC1 | C4H8O
product | 2-Difluoromethyl-2,5-diaminopentanoic acid | FC(C(C(=O)O)(CCCN)N)F | C6H12F2N2O2
